US07776875B2
At room temperature, 2-chloroacetonitrile (12 g, 0.16 mol) was added into a mixture of 4-chloro-2-[1,3]dioxolan-2-yl-phenol (24.6 g, 0.123 mol) and K2CO3 (34 g, 0.246 mol) in DMF (150 mL). After the reaction mixture was heated at 100° C. for 3 h and cooled to room temperature, water was added. The aqueous phase was extracted with EtOAc twice, washed with saturated K2CO3 solution, water, and dried over anhydrous Na2SO4 to give crude (4-Chloro-2-[1,3]dioxolan-2-yl-phenoxy)-acetonitrile. The crude product was used for next step without further purification.

reactant | 2-chloroacetonitrile | 0.16 mol, 12 g | ClCC#N | C2H2ClN
reactant | 4-chloro-2-[1,3]dioxolan-2-yl-phenol | 0.123 mol, 24.6 g | ClC1=CC(=C(C=C1)O)C1OCCO1 | C9H9ClO3
reactant | K2CO3 | 0.246 mol, 34 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | (4-Chloro-2-[1,3]dioxolan-2-yl-phenoxy)-acetonitrile | ClC1=CC(=C(OCC#N)C=C1)C1OCCO1 | C11H10ClNO3
